US07105544B2
N-{3-[1-(3-{[2,2-BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}CYCLOPROPANECARBOXAMIDE
Example 113 was prepared from bis(4-chlorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.84–7.80 (br, 1H), 7.80–7.69 (br, 1H), 7.64–7.46 (br, 1H), 7.40–6.90 (m, 9H), 6.85–6.66 (m, 1H), 4.94–4.74 (br, 1H), 4.69 (s, 1H), 3.41–3.25 (m, 2H), 3.25–3.07 (m, 2H), 2.77–2.61 (m, 2H), 2.61–2.45 (m, 1H), 2.45–2.17 (m, 2H), 1.99–1.63 (m, 6H), 1.61–1.39 (m, 1H), 1.14–0.94 (m, 2H), 0.92–0.70 (m, 2H); ESMS m/e: 564.2 (M+H)+.

reactant | bis(4-chlorophenyl)acetic acid | ClC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C18H27N3O
product | N-{3-[1-(3-{[2,2-BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}CYCLOPROPANECARBOXAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)C1=CC=C(C=C1)Cl | C32H35Cl2N3O2
